US06168838A
9-Fluoro-7-(4-hexylphenyl)-2-octyloxyphenanthrene
From 7-bromo-9-fluoro-2-octyloxyphenanthrene by reaction with 4-hexylphenyl-boronic acid, sodium carbonate and tetrakis(triphenylphosphine)palladium(O) in toluene/ethanol/H2O.

reactant | 7-bromo-9-fluoro-2-octyloxyphenanthrene | BrC1=CC=C2C=3C=CC(=CC3C=C(C2=C1)F)OCCCCCCCC | C22H24BrFO
reactant | 4-hexylphenyl-boronic acid | C(CCCCC)C1=CC=C(C=C1)B(O)O | C12H19BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol H2O | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakis(triphenylphosphine)palladium(O) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 9-Fluoro-7-(4-hexylphenyl)-2-octyloxyphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCCCC)C1=CC=C(C=C1)CCCCCC | C34H41FO
